US04436726
Activated zinc (118 mg), a small crystal of iodine, and tetrahydrofuran (3 ml) were stirred and heated under reflux. To the mixture was added a solution of tert-butyl bromoacetate (312 mg) and 13-methyltetradecanal (226 mg) in tetrahydrofuran (3 ml), and the reactants were stirred and heated under reflux for 1 hour. Anhydrous conditions were maintained throughout the experiment. The cooled solution was poured into 0.1 N hydrochloric acid (5.6 ml) and the pH was adjusted to 2.0 with 2 N hydrochloric acid. The excess of zinc was filtered off and the crude products were extracted with ethyl acetate. The ethyl acetate solution was washed with aqueous sodium hydrogen carbonate and brine, and then dried over magnesium sulfate. The ethyl acetate was evaporated off under reduced pressure to give the crude ester, which was purified by column chromatography on silica gel (Merck) and eluted with a mixture of cyclohexane and ethyl acetate (19:1). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was dried by high vacuum pump to afford an oil of tert-butyl 3-hydroxy-15-methylhexadecanoate (180 mg).

reactant | iodine | II | I2
reactant | tert-butyl bromoacetate | 312 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 13-methyltetradecanal | 226 mg | CC(CCCCCCCCCCCC=O)C | C15H30O
reactant | hydrochloric acid | 0.1 N, 5.6 ml | Cl | ClH
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
catalyst | zinc | 118 mg | [Zn] | Zn
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-hydroxy-15-methylhexadecanoate | 180 mg | OC(CC(=O)OC(C)(C)C)CCCCCCCCCCCC(C)C | C21H42O3
